US07517910B2
(4-[(3,5-diphenyl-1H-pyrazol-1-yl)methyl]-3-isopropoxyphenyl}methanol
To a solution of methyl 4-[(3,5-diphenyl-1H-pyrazol-1-yl)methyl]-3-isopropoxybenzoate (0.59 g, 1.38 mmol) in tetrahydrofuran (12 mL) was added lithium aluminum hydride (52 mg, 1.38 mmol) with stirring at 0° C., and the mixture was stirred at the same temperature for 2.5 hr. After completion of the reaction, sodium sulfate decahydrate (0.89 g, 2.76 mmol) was added to the reaction mixture, and the mixture was stirred at room temperature for 2 hr. The insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=5/1-hexane/ethyl acetate=1/1) to give the title compound (0.50 g, yield 92%) as a colorless oil. MS (ESI+): 399 (M+H).

reactant | methyl 4-[(3,5-diphenyl-1H-pyrazol-1-yl)methyl]-3-isopropoxybenzoate | 1.38 mmol, 0.59 g | C1(=CC=CC=C1)C1=NN(C(=C1)C1=CC=CC=C1)CC1=C(C=C(C(=O)OC)C=C1)OC(C)C | C27H26N2O3
reactant | lithium aluminum hydride | 1.38 mmol, 52 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate decahydrate | 2.76 mmol, 0.89 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
product | (4-[(3,5-diphenyl-1H-pyrazol-1-yl)methyl]-3-isopropoxyphenyl}methanol | 0.50 g, yield 92% | C1(=CC=CC=C1)C1=NN(C(=C1)C1=CC=CC=C1)CC1=C(C=C(C=C1)CO)OC(C)C | C26H26N2O2
